US05470845
A. Tetrahydro-2-phenoxy-2H-pyran
Phenol (10 g, 106 mmol) was dissolved in 3,4-dihydro-2H-pyran (29 mL, 318 mmol) and one drop concentrated HCl was added at RT. The reaction was stirred at RT overnight. Ethyl ether (500 mL) was added to dilute the reaction. The organic layer was washed with water (2×100 mL), saturated sodium bicarbonate (2×100 mL), brine (2×100 mL) and dried over MgSO4. Evaporation gave title compound (17 g, 100%) as a colorless oil.

reactant | Phenol | 106 mmol, 10 g | C1(=CC=CC=C1)O | C6H6O
reactant | 3,4-dihydro-2H-pyran | 318 mmol, 29 mL | O1CCCC=C1 | C5H8O
catalyst | HCl | one drop | Cl | ClH
solvent | Ethyl ether | 500 mL | C(C)OCC | C4H10O
product | Tetrahydro-2-phenoxy-2H-pyran | 17 g, 100% | O(C1=CC=CC=C1)C1OCCCC1 | C11H14O2
